US08084448B2
B. 5-{4-[(E)-2-(1-Benzenesulfonylpyrrolidin-2-yl)-vinyl]-2-benzyloxyphenyl}-1,1-dioxo-2-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-3-one
To a solution of 5-(2-benzyloxy-4-iodophenyl)-1,1-dioxo-2-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-3-one (100 mg, 0.183 mmol) in acetonitrile (2 mL) is added 1-benzenesulfonyl-2-vinylpyrrolidine (43 mg, 0.183 mmol), NEt3 (0.038 mL, 0.274 mmol), Pd(OAc)2 (2 mg, 0.034 mmol), and 2-(di-t-butylphosphino)biphenyl (4 mg) and the mixture stirred at 80° C. for 48 h. The reaction is cooled to RT and partitioned between 1N HCl and EtOAc. The organic phase is washed with brine and dried over magnesium sulfate. The solvent is removed under reduced pressure and the crude material purified by column chromatography using a gradient of 10-25% EtOAc/hexane to afford the title compound.

reactant | 5-(2-benzyloxy-4-iodophenyl)-1,1-dioxo-2-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-3-one | 0.183 mmol, 100 mg | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)I)N1CC(N(S1(=O)=O)CC[Si](C)(C)C)=O | C20H25IN2O4SSi
reactant | 1-benzenesulfonyl-2-vinylpyrrolidine | 0.183 mmol, 43 mg | C1(=CC=CC=C1)S(=O)(=O)N1C(CCC1)C=C | C12H15NO2S
reactant | NEt3 | 0.274 mmol, 0.038 mL | CCN(CC)CC | C6H15N
reactant | 2-(di-t-butylphosphino)biphenyl | 4 mg | C(C)(C)(C)P(C1=C(C=CC=C1)C1=CC=CC=C1)C(C)(C)C | C20H27P
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
catalyst | Pd(OAc)2 | 0.034 mmol, 2 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 5-{4-[(E)-2-(1-Benzenesulfonylpyrrolidin-2-yl)-vinyl]-2-benzyloxyphenyl}-1,1-dioxo-2-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-3-one | C1(=CC=CC=C1)S(=O)(=O)N1C(CCC1)/C=C/C1=CC(=C(C=C1)N1CC(N(S1(=O)=O)CC[Si](C)(C)C)=O)OCC1=CC=CC=C1 | C32H39N3O6S2Si
